US04720445
Preparation of Maleimide-tert-Butyl Vinyl Ether Copolymer
A polymer was prepared in the manner of Example 1, except the comonomer to maleimide was tert-butyl vinyl ether. The polymer yield was 44%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | tert-butyl vinyl ether | C(=C)OC(C)(C)C | C6H12O
product | Maleimide tert-Butyl Vinyl Ether | yield was 44% | C1(C=CC(N1)=O)=O.C(=C)OC(C)(C)C | InChI=1S/C6H12O.C4H3NO2/c1-5-7-6(2,3)4;6-3-1-2-4(7)5-3/h5H,1H2,2-4H3;1-2H,(H,5,6,7)
